US04968702
3-Amino-2-[1,1'-biphenyl]-4-yl-6,8-dichloro-4-quinolinecarboxylic acid
A 3.02 g portion of 5,7-dichloroisatin was suspended in 25 ml of water in a 500 ml three-necked flask. A solution of 3.96 g of sodium hydroxide in 15 ml of water was added and the mixture heated to 90° C. A 6.0 g portion of 2-amino-4'-phenylacetophenone hydrochloride was dissolved in a mixture of 80 ml of absolute ethanol:water (1:1) and 20 ml of tetrahydrofuran. This solution was kept warm and with stirring, added dropwise to the 5,7-dichloroisatin solution over 1.5 hours. The resulting solution was refluxed 1.5 hours, then the solvent was distilled off at 85° C. The red solids were collected and washed with 50 ml of water. These solids were then stirred in 1800 ml of water, filtered and the filtrate acidified to pH 5 with glacial acetic acid. The resulting orange solids were collected and dried, giving 3.25 g of the desired product, mp 244°-245° C.

reactant | 5,7-dichloroisatin | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)=O | C8H3Cl2NO2
reactant | sodium hydroxide | 3.96 g | [OH-].[Na+]
reactant | 2-amino-4'-phenylacetophenone hydrochloride | Cl.NCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1
solvent | water | 25 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | ethanol water | 80 ml | C(C)O.O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Amino-2-[1,1'-biphenyl]-4-yl-6,8-dichloro-4-quinolinecarboxylic acid | 3.25 g | NC=1C(=NC2=C(C=C(C=C2C1C(=O)O)Cl)Cl)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H14Cl2N2O2
